US06806230B1
46 g (0.85 mol) of sodium methoxide was dissolved in 700 ml of methanol, and 76 g (0.73 mol) of formamidine acetate was added, followed by stirring at room temperature for 15 minutes. Then, 146 g (0.61 mol) of 3-ethoxymethylene-1,1,1-trifluoro-5-methyl-2,4-hexanedione was added under cooling with ice, followed by heating and refluxing for further 2 hours. The solvent was distilled off under reduced pressure, and 1,000 ml of ice water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the obtained crude product was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate=6:1) to obtain 89 g (yield: 67%) of 5-isopropylcarbonyl-4-trifluoromethylpyrimidine as slightly yellow liquid.

reactant | sodium methoxide | 0.85 mol, 46 g | C[O-].[Na+]
reactant | formamidine acetate | 0.73 mol, 76 g | C(C)(=O)O.C(=N)N
reactant | 3-ethoxymethylene-1,1,1-trifluoro-5-methyl-2,4-hexanedione | 0.61 mol, 146 g | C(C)OC=C(C(C(F)(F)F)=O)C(C(C)C)=O | C10H13F3O3
solvent | methanol | 700 ml | CO | CH4O
product | 5-isopropylcarbonyl-4-trifluoromethylpyrimidine | 89 g, yield: 67% | C(C)(C)C(=O)C=1C(=NC=NC1)C(F)(F)F | C9H9F3N2O
